US07872014B2
A mixture of methyl 2,3-dihydroxybenzoate (2.18 g, 12.97 mmol), 2-bromoethyl methyl ether (4.50 g, 32.42 mmol), and potassium carbonate (6.91 g, 50.0 mmol) in DMF (20 mL) was stirred at 60° C. for 16 h. The reaction mixture was diluted with ethyl acetate (300 mL), washed with 5% aqueous LiCl (2×50 mL), and brine (50 mL), dried with sodium sulfate, and concentrated to provide crude methyl 2,3-bis{[2-(methyloxy)ethyl]oxy}benzoate (3.49 g, 95% yield) as a brown oil. 1H NMR (400 MHz, CDCl3) δ7.32 (dd, 1H), 7.05 (m, 2H), 4.22 (m, 2H), 4.15 (m, 2H), 3.88 (s, 3H), 3.75 (m, 4H), 3.43 (s, 6H).

reactant | methyl 2,3-dihydroxybenzoate | 12.97 mmol, 2.18 g | OC1=C(C(=O)OC)C=CC=C1O | C8H8O4
reactant | 2-bromoethyl methyl ether | 32.42 mmol, 4.50 g | COCCBr | C3H7BrO
reactant | potassium carbonate | 50.0 mmol, 6.91 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | methyl 2,3-bis{[2-(methyloxy)ethyl]oxy}benzoate | 3.49 g, 95% yield | COCCOC1=C(C(=O)OC)C=CC=C1OCCOC | C14H20O6
